US08663621B2
Methyl (E)-3-(2-hydroxyethyl)-4-methyl-2-pentenoate was synthesized according to scheme shown in FIG. 1. Unless otherwise specified all reagents and solvents were purchased from Aldrich Chemical Co. Tetrahydropyranyl ether (THP) protection of 3-butyn-1-ol was conducted following a procedure by Rama Rao et al. (1986). A solution of 3-butyn-1-ol (approximately 14.0 g, approximately 0.2 mol) in methylene chloride (approximately 75 ml, dried by distillation from CaH2) was placed in a flask under N2. The mixture was cooled to approximately 0° C., and pyridine p-toluenesulfonate (approximately 0.28 g) was added. 3,4-Dihydro-2H-pyran (about 20.1 ml) was added via a dropping funnel maintaining the temperature between approximately 0 and approximately 5° C. The mixture was stirred at this temperature for about 1 h, then warmed to about 25° C. and stirred for additional about 2 h. Thin layer chromatography (silica gel, hexanes/ethyl acetate, approximately 3:1) showed that the reaction was complete. The reaction mixture was taken into cold water (approximately 70 ml) and transferred to a separatory funnel. The layers were separated and the aqueous phase was extracted with methylene chloride. Combined organic extracts were washed with NaHCO3 (aq), brine, and dried with Na2SO4 (anhydrous). Distillation produced approximately 23 g of THPO-protected 3-butyn-1-ol with a by of about 50-55° C./4 mm Hg with GC-MS (m/z, relative intensity): 153 (2, M+-1), 99 (9), 85 (100), 79 (9), 67 (20), 53 (42), 41 (33). The mass spectrum matched the spectrum presented in the NIST MS library for this intermediate compound.

reactant | Tetrahydropyranyl ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | 3-butyn-1-ol | C(CC#C)O | C4H6O
reactant | 3-butyn-1-ol | approximately 0.2 mol, approximately 14.0 g | C(CC#C)O | C4H6O
reactant | pyridine p-toluenesulfonate | approximately 0.28 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC=CC=C1
reactant | 3,4-Dihydro-2H-pyran | about 20.1 ml | O1CCCC=C1 | C5H8O
solvent | methylene chloride | approximately 75 ml | C(Cl)Cl | CH2Cl2
solvent | water | approximately 70 ml | O | H2O
product | Methyl (E)-3-(2-hydroxyethyl)-4-methyl-2-pentenoate | OCC\C(=C/C(=O)OC)\C(C)C | C9H16O3
